US08017601B2
N-(6-(3-carbamoyl-4-methoxyphenyl)naphthalen-2-yl)thiophene-3-carboxamide
5-iodo-2-methoxybenzamide (47.9 mg, 0.173 mmol), N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)thiophene-3-carboxamide (140.4 mg, 0.370 mmol), Fibercat palladium catalyst (Johnson-Matthey, 70.1 mg), and K2CO3 (2 M in water, 0.65 ml, 1.3 mmol) were combined in a microwave reaction vessel and 1,4-dioxane (1.8 ml) was added. The reaction tube was sealed and heated in the microwave (CEM microwave) at 60 Watts and 85 C for 20 minutes. The reaction was then cooled to room temperature, diluted with water (5 ml), and extracted with EtOAc (4×10 ml). The organic extracts were combined, dried over sodium sulfate, filtered, concentrated, and purified via silica gel (Biotage instrument, 13%->100% EtOAc/hexanes). This crude material was then purified via HPLC (10%->95% MeCN/water with 0.1% TFA) to afford title compound (10.6 mg, 15%). MS (ESI pos. ion) m/z: 403 (M+H). Calc'd Exact Mass for C23H18N2O3S: 402.

reactant | 5-iodo-2-methoxybenzamide | 0.173 mmol, 47.9 mg | IC=1C=CC(=C(C(=O)N)C1)OC | C8H8INO2
reactant | N-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)thiophene-3-carboxamide | 0.370 mmol, 140.4 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)NC(=O)C1=CSC=C1)C | C21H22BNO3S
reactant | K2CO3 | 1.3 mmol, 2 M, 0.65 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 1.8 ml | O1CCOCC1 | C4H8O2
catalyst | palladium | 70.1 mg | [Pd] | Pd
solvent | water | 5 ml | O | H2O
product | N-(6-(3-carbamoyl-4-methoxyphenyl)naphthalen-2-yl)thiophene-3-carboxamide | 10.6 mg, 15% | C(N)(=O)C=1C=C(C=CC1OC)C=1C=C2C=CC(=CC2=CC1)NC(=O)C1=CSC=C1 | C23H18N2O3S
